US05663154
2-Amino-6-propylthio-9H-purine (0.29 g 1.4 mmoles) and 2',3'-dideoxy-3'-fluorouridine (0.39 g, 1.7 mmoles) were suspended in potassium phosphate buffer (10 mM) 90 ml), pH 6.8, containing 0.04% potassium azide. Purified purine nucleoside phosphorylase (370 I.U., PNP) and thymidine phosphorylase (TPase) (Krenitsky et al., Biochemistry, 20, 3615 (1981) and U.S. Pat. No. 4,381,444) adsorbed on to DEAE-cellulose were added to The reaction mixture and the suspension stirred at 45° C. After 2 days, additional PNP (370 I.U.) and TPase adsorbed onto DEAE-cellulose was added. The next day the reaction was filtered to remove the immobilized protein and fresh PNP (2700 I.U.) and TPase (1000 I.U.) was added. After 4 days, additional free PNP (2700 I.U.) and TPase (1000 I.U.) was added to the reaction mixture. After 3 days, PNP (5400 I.U.) and TPase (2000 I.U.) were added. After a total of 14 days, solvent was removed in vacuo and the residue was flash chromatographed on silica gel (2.5×23 cm) using CH2Cl2 :MeOH (97:3). Product-containing fractions were pooled and rechromatographed on a second silica gel column (2.5×20 cm) using CHCl3 :MeOH (199:1). Solvent was removed and lyophilization yielded 2-amino-6-propylthio-9-(2,3-dideoxy-3-fluoro-β-D-erythro-pentofuranosyl)-9H-purine (0.14 g).

reactant | 2-Amino-6-propylthio-9H-purine | 1.4 mmoles, 0.29 g | NC1=NC(=C2N=CNC2=N1)SCCC | C8H11N5S
reactant | 2',3'-dideoxy-3'-fluorouridine | 1.7 mmoles, 0.39 g | F[C@H]1C[C@@H](O[C@@H]1CO)N1C(=O)NC(=O)C=C1 | C9H11FN2O4
reactant | potassium azide | [N-]=[N+]=[N-].[K+]
reactant | thymidine | [C@@H]1(C[C@H](O)[C@@H](CO)O1)N1C(=O)NC(=O)C(C)=C1 | C10H14N2O5
solvent | potassium phosphate | 10 mM, 90 ml | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
product | 2-amino-6-propylthio-9-(2,3-dideoxy-3-fluoro-β-D-erythro-pentofuranosyl)-9H-purine | 0.14 g | NC1=NC(=C2N=CN(C2=N1)[C@H]1C[C@@H]([C@H](O1)CO)F)SCCC | C13H18FN5O2S
